US08669266B2
(ii) Piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester
To a solution of 3.2 g Piperazine-1,4-dicarboxylic acid benzyl ester 3,3,3-trifluoro-propyl ester in 60 ml ethanol were added 200 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over a plug of Celite®, washed with ethanol and concentrated. Yield: 2.0 g colorless oil.

reactant | Piperazine-1,4-dicarboxylic acid benzyl ester 3,3,3-trifluoro-propyl ester | 3.2 g | FC(CCOC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C16H19F3N2O4
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | FC(CCOC(=O)N1CCNCC1)(F)F | C8H13F3N2O2
